US06762197B2
500 mg (2.52 mmol) of 2-methyl-5-phenylbenzyl alcohol (produced in the same manner as in Reference Production Example 1 (4)) was dissolved in 2 ml of carbon tetrachloride, and to this solution was added 1.0 g (3.28 mmol) of triphenylphosphine under nitrogen atmosphere. The reaction mixture was stirred for 1.5 hours under reflux with heating, cooled to room temperature, then, concentrated. The residue was subjected to silica gel column chromatography (eluant: hexane/ethyl acetate=10/1 (v/v)), to obtain 508 mg of 2-methyl-5-phenylbenzyl chloride.

reactant | 2-methyl-5-phenylbenzyl alcohol | 2.52 mmol, 500 mg | CC1=C(CO)C=C(C=C1)C1=CC=CC=C1 | C14H14O
reactant | triphenylphosphine | 3.28 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-methyl-5-phenylbenzyl chloride | 508 mg | CC1=C(CCl)C=C(C=C1)C1=CC=CC=C1 | C14H13Cl
